US08981085B2
A mixture of tert-butyl trans-1-benzyl-4-methoxypiperidin-3-ylcarbamate (1.37 g, 4.28 mmol) and 10% Pd/C (0.46 g, 0.43 mmol) in MeOH (20 mL) was charged with 1 atmosphere hydrogen and stirred at room temperature for 18 hours. The catalyst was removed by filtration and washed with methanol (20 mL). The filtrate was concentrated in vacuo to give tert-butyl trans-4-methoxypiperidin-3-ylcarbamate (0.99 g, 100%) as a solid.

reactant | tert-butyl trans-1-benzyl-4-methoxypiperidin-3-ylcarbamate | 4.28 mmol, 1.37 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)OC)NC(OC(C)(C)C)=O | C18H28N2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.43 mmol, 0.46 g | [Pd] | Pd
product | tert-butyl trans-4-methoxypiperidin-3-ylcarbamate | 0.99 g, 100% | CO[C@H]1[C@@H](CNCC1)NC(OC(C)(C)C)=O | C11H22N2O3
